US08895313B2
2-Methoxy-N-[3-methoxy-4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-5-(trifluoromethoxy)benzamide
A stirred mixture of 2-methoxy-5-trifluoromethoxybenzoic acid (0.248 g, 1.05 mmol) and thionyl chloride (4 ml) was heated under reflux for 4 h. After cooling to room temperature, the excess reagent was removed under reduced pressure to give the crude acid chloride. The amide was prepared as described in the Amide Coupling section using the crude acid chloride and 3-methoxy-4-(6-methoxy-1,3-benzothiazol-2-yl)aniline (0.30 g, 1.05 mmol) in dry pyridine (8 ml) to give the title compound (0.389 g, 73%) as an almost colourless solid after work-up and recrystallisation from acetic acid.

reactant | 2-methoxy-5-trifluoromethoxybenzoic acid | 1.05 mmol, 0.248 g | COC1=C(C(=O)O)C=C(C=C1)OC(F)(F)F | C9H7F3O4
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methoxy-4-(6-methoxy-1,3-benzothiazol-2-yl)aniline | 1.05 mmol, 0.30 g | COC=1C=C(N)C=CC1C=1SC2=C(N1)C=CC(=C2)OC | C15H14N2O2S
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-N-[3-methoxy-4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-5-(trifluoromethoxy)benzamide | 0.389 g, 73% | COC1=C(C(=O)NC2=CC(=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)OC)C=C(C=C1)OC(F)(F)F | C24H19F3N2O5S
